US08754073B2
43.2 tert-butyl 4-(1-methyl-1H-indol-3-yl)-piperidine-1-carboxylate
500 mg tert-butyl 4-(1H-indol-3-yl)-piperidine-1-carboxylate are placed in 8 ml dimethylformamide and 73.3 mg sodium hydride (60% in mineral oil) are added. After 15 min 175 μl methyl iodide are added. The reaction mixture is stirred at ambient temperature. After the reaction is complete the product is purified directly by preparative HPLC (method C). 302 mg of the product are obtained as an oil.

reactant | tert-butyl 4-(1H-indol-3-yl)-piperidine-1-carboxylate | 500 mg | N1C=C(C2=CC=CC=C12)C1CCN(CC1)C(=O)OC(C)(C)C | C18H24N2O2
reactant | sodium hydride | 73.3 mg | [H-].[Na+]
reactant | methyl iodide | 175 μl | CI | CH3I
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | tert-butyl 4-(1-methyl-1H-indol-3-yl)-piperidine-1-carboxylate | 302 mg | CN1C=C(C2=CC=CC=C12)C1CCN(CC1)C(=O)OC(C)(C)C | C19H26N2O2
